### RC plus diode transient netlist ###

vsin:vin 1 0 mag=10. freq=100MEGHz phase=120

diode:d1 1 2 rs = 200. cj0=1p
res:r1 1 2 r=5k
cap:c1 2 0 c=2p

.analysis tran tstop=.02u tstep=.1n im=trap verbose=0

.plot tran 1 2

.end
