### RC plus diode transient netlist ###

ipulse:iin 0 1 i1=-.1mA i2=1mA pw=3n per=10n tr=.5n tf=.5n td=.5n

diode:d1 1 2 rs = 200. cj0=1p
res:r1 1 2 r=5k
cap:c1 2 0 c=2p
res:r2 2 0 r=10k

.analysis tran tstop=20n tstep=.1n im=trap verbose=0

.plot tran 1 2

.end
